US07718663B2
4-({(1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-6-methylquinazoline-2-carboxylic acid ethyl ester
To a suspension of 8.47 g of 4-chloro-2-ethoxycarbonyl-6-methylquinazoline and 7.60 g of (1S,2R)-2-(t-butoxycarbonylamino)cyclohexylamine in 350 ml of toluene, 11.8 ml of triethylamine and a catalytic amount of 4-dimethylaminopyridine were added, and then the mixture was heated at reflux for 16 hours. After the reaction solution was mixed with a saturated sodium hydrogencarbonate solution and extracted with chloroform, the organic layer was washed with a 10% citric acid solution and saturated brine. After drying over magnesium sulfate, the solvent was distilled off to obtain 15.7 g of the desirable compound as a yellow powder.

reactant | 4-chloro-2-ethoxycarbonyl-6-methylquinazoline | 8.47 g | ClC1=NC(=NC2=CC=C(C=C12)C)C(=O)OCC | C12H11ClN2O2
reactant | (1S,2R)-2-(t-butoxycarbonylamino)cyclohexylamine | 7.60 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)N | C11H22N2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 11.8 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-({(1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-6-methylquinazoline-2-carboxylic acid ethyl ester | 15.7 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(=O)OC(C)(C)C)C | C23H32N4O4
